US05157047
Preparation of 3-Bromo-2-(3,4-dichlorophenyl)-1-(ethoxymethyl)-4,5-bis(trifluoromethyl)pyrrole
To a chilled solution of 3-bromo-2-(3,4-dichlorophenyl)-4,5-bis(trifluoromethyl)pyrrole (0.854 g, 2 mmol) and tetrahydrofuran is added potassium tertbutoxide (0.247 g, 2.2 mmol). After stirring at ice bath temperature for 15 minutes chloromethyl ethyl ether (0.208 g, 2.2 mmol) is added to the reaction mixture and the ice bath is removed. Stirring is continued for 1 1/2 hours then the reaction mixture is diluted with water and extracted with ether. The combined organic extracts are washed sequentially with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a yellow liquid (0.91 g, 94%). Identified by IR and NMR spectral analyses.

reactant | 3-bromo-2-(3,4-dichlorophenyl)-4,5-bis(trifluoromethyl)pyrrole | 2 mmol, 0.854 g | BrC1=C(NC(=C1C(F)(F)F)C(F)(F)F)C1=CC(=C(C=C1)Cl)Cl | C12H4BrCl2F6N
reactant | potassium tertbutoxide | 2.2 mmol, 0.247 g | CC(C)([O-])C.[K+]
reactant | chloromethyl ethyl ether | 2.2 mmol, 0.208 g | C(C)OCCl | C3H7ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Bromo-2-(3,4-dichlorophenyl)-1-(ethoxymethyl)-4,5-bis(trifluoromethyl)pyrrole | 0.91 g, 94% | BrC1=C(N(C(=C1C(F)(F)F)C(F)(F)F)COCC)C1=CC(=C(C=C1)Cl)Cl | C15H10BrCl2F6NO
